US07528129B2
25i) (R)-1-(3-bromo-4-hydroxy-benzyl)-2-oxo-2-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
Prepared analogously to Example 7i from 100 mg (0.19 mmol) (R)-2-(3-bromo-4-hydroxy-phenyl)-1-carboxy-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate and 35.1 mg (0.21 mmol) 1-(tetrahydropyran-4-yl)-piperazine.

reactant | (R)-2-(3-bromo-4-hydroxy-phenyl)-1-carboxy-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.19 mmol, 100 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C=C1)O)Br)C(=O)O)C=CC=C2 | C24H26BrN3O6
reactant | 1-(tetrahydropyran-4-yl)-piperazine | 0.21 mmol, 35.1 mg | O1CCC(CC1)N1CCNCC1 | C9H18N2O
product | (R)-1-(3-bromo-4-hydroxy-benzyl)-2-oxo-2-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(N1CCN(CC1)C1CCOCC1)=O)CC1=CC(=C(C=C1)O)Br)C=CC=C2 | C33H42BrN5O6
